US07241798B2
(1S,2S)-3-Benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carbonyl chloride (racemic)
To racemic Intermediate 39, one enantiomer being (1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid (0.16 g, 0.56 mmol) was added thionyl chloride (2 mL) dropwise with stirring. The homogeneous solution was refluxed gently for 2 hours. The solvent was removed at reduced pressure to yield the title compound (0.17 g, quantitative yield) as an oil, which was used without further purification.

reactant | (1S,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid | 0.56 mmol, 0.16 g | C(C1=CC=CC=C1)N1[C@H]([C@@]2(CC2C1)C(=O)O)C1=CC=CC=C1 | C19H19NO2
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | (1S,2S)-3-Benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-1-carbonyl chloride | 0.17 g, quantitative yield | C(C1=CC=CC=C1)N1[C@H]([C@@]2(CC2C1)C(=O)Cl)C1=CC=CC=C1 | C19H18ClNO
